US06638928B1
Reaction of 3-(3-methoxy-4-benzyloxyphenyl)pentan-2-ol with 3,4-dimethoxybenzaldehyde to yield 4-(4-ethyl-6-methoxy-7-benzyloxy-3-methyliso-chromanyl)-1,2-dimethoxybenzene.

reactant | 3-(3-methoxy-4-benzyloxyphenyl)pentan-2-ol | COC=1C=C(C=CC1OCC1=CC=CC=C1)C(C(C)O)CC | C19H24O3
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
product | 4-(4-ethyl-6-methoxy-7-benzyloxy-3-methyliso-chromanyl)-1,2-dimethoxybenzene | C(C)C1C(OC(C2=CC(=C(C=C12)OC)OCC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC)C | C28H32O5
